Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
alcohol intoxication
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o ___ homeless F with PMH of TBI, HIV+, HCV, 
polysubstance abuse (alcohol, crack cocaine, and heroin), 
unspecified mood disorder (MDD with psychotic features vs. 
substance-induced mood disorder), and chronic AH who presented 
from ___ station via EMS with complaint of multiple head strikes 
found to have EtOH intoxication and SI admitted to MICU for EtOH 
withdrawal and CIWA monitoring.

Patient is noted to be a poor historian; however she reports she 
hit her head "multiple" times today ___ falling asleep. Of note, 
she reports active EtOH use and states her last drink was at 
1200 on ___. She is unsure if she used other drugs/medications. 
In addition, she reports concern that she is having auditory 
hallucinations with the voices increasing in frequency. In 
addition, patient reports active SI although she does not have a 
plan.

In the ED, initial vitals: 98.2 88 150/98 16 100% RA. During 
time in ED, patient became febrile to 101; a urinalysis/urine 
cx, CXR, and blood cultures were sent.  
- Exam notable for: pleasant patient with poor hygiene/dress, 
tangential and appearing to respond to internal stimuli, neuro 
intact, no clear HEENT trauma, mild upper thoracic tenderness, 
(+) tongue fasiculation
- Labs were notable for:
2.9>9.9/33.6<168 
Na 140 K 3.5 Cl 103 HCO3 24 BUN 15 Cr 0.6 Gluc 111   AGap=17 
ALT 77 AST 196 AP 98 Tbili 0.6 Alb 3.9 
Serum EtOH 21 
Serum ASA, Acetmnphn, ___, Tricyc Negative 
Lactate 1.0
U/A with ketones, 6 WBCs, few bacteria, negative leuks, negative 
nitrites
- Imaging showed:
NCHCT (___): 1. No acute intracranial abnormality. 2. Stable 
left parietal encephalomalacia.
CXR (___): No acute cardiopulmonary abnormality or fracture.
- Patient was given: 
40mg diazepam
100mg thiamine
MVI
1mg folic acid
30mg ketorolac
2L NS
1gm Tylenol
- Psychiatry was consulted who felt patient was disorganized and 
endorsing AH and SI (no plan). Per their recommendations, 
patient was placed on a ___ with a 1:1 sitter with 
admission to medicine for EtOH withdrawal

On arrival to the MICU, she was sleeping comfortably. Would open 
eyes to voice and answer questions, but was overall very sleepy. 
Denies pain. Cannot articulate when last drink was, says 
"yesterday." Denies taking anything else.

 
Past Medical History:
Per Dr. ___ (___), confirmed
with patient and updated as relevant:
- HIV
- Hepatitis C
- H/o head injury (Per Deac 4 DC summary ___: "pt reports she
was "assaulted" and subsequently received 300 stitches, was
hospitalized x 2wks, and underwent rehab at ___ she 
denies
LOC or persistent deficits but receives SSDI for this injury"

 
Social History:
Per Dr. ___ (___), 
confirmed with patient and updated as relevant: 
"The patient reports that she was born and raised in ___ 
and that her parents were separated while she was growing up. 
She 
states that she lives with her grandmother her whole life until 
___ 
years ago when her mother died and that she has been living in 
the ___ since. She states that she has 2 daughters (age 
___ and ___, named ___ and ___ who are both enrolled at 
___ and that she also has 2 grandchildren. Denies contact with 

parents, whom she reports are not supportive. " 
On today's interview patient reports no contact with her family, 

reports having 3 living children (2 daughters and 1 son) and 1 
dead son. She has no contact with her children. She did not wish 

to elaborate further. Confirms living at ___. 

 
Family History:
Unknown (pt refused to answer in past)

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
=========================== 
Vitals:  98.2 103 138/77 22 99% ra
GEN: lying in bed, somnolent, but wakes to voice, NAD
HEENT: no scleral icterus, PERRL, mmm, nl OP
NECK: supple, no JVD
CV: tachycardic, regular rhythm, II/VI systolic murmur
PULM: nl wob on ra, LCAB, no wheezes or crackles
ABD: soft, mild distension, normal bs, nontender
EXT: warm, trace bilateral edema, 2+ DP pulses
SKIN: no rashes or visible track marks
NEURO: sleepy, oriented to person, didn't answer re place or 
time, answering questions then falls asleep, moving all 4 
extremities
ACCESS:  PIV

DISCHARGE PHYSICAL EXAM:
===========================

stable vital signs
lying comfortably in bed.
bilateral knee ecchymosis.
 
Pertinent Results:
ADMISSION LABS:
===========================
___ 03:27PM BLOOD WBC-2.9* RBC-3.81* Hgb-9.9* Hct-33.6* 
MCV-88 MCH-26.0 MCHC-29.5* RDW-17.9* RDWSD-56.8* Plt ___
___ 03:27PM BLOOD Neuts-74.0* ___ Monos-4.5* 
Eos-0.7* Baso-0.3 AbsNeut-2.16 AbsLymp-0.60* AbsMono-0.13* 
AbsEos-0.02* AbsBaso-0.01
___ 03:27PM BLOOD Glucose-111* UreaN-15 Creat-0.6 Na-140 
K-3.5 Cl-103 HCO3-24 AnGap-17
___ 03:27PM BLOOD ALT-77* AST-196* AlkPhos-98 TotBili-0.6
___ 03:27PM BLOOD Albumin-3.9
___ 03:27PM BLOOD Osmolal-295
___ 03:27PM BLOOD ASA-NEG Ethanol-21* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICRO:
===========================
-Blood cx pending
-Urine cx pending

IMAGING/STUDIES:
===========================
-NCHCT (___): 1. No acute intracranial abnormality. 2. Stable 
left parietal encephalomalacia.

-CXR (___): No acute cardiopulmonary abnormality or fracture. 


DISCHARGE LABS:
===========================

 
Brief Hospital Course:
___ y/o ___ homeless F with PMHx of TBI, HIV+, HCV, 
polysubstance abuse (alcohol, crack cocaine, and heroin), 
unspecified mood disorder (MDD with psychotic features vs. 
substance-induced mood disorder), and chronic AH who presented 
from ___ station via EMS with complaint of multiple head strikes 
found to have EtOH intoxication and SI admitted to MICU for EtOH 
withdrawal and CIWA monitoring, now stabilized and transferred 
to the floor, now medically stable for discharge to psychiatric 
facility

ACTIVE ISSUES:
========================
# EtOH intoxication/withdrawal: on phenobarbital withdrawal 
protocol.  Last drink ___.  Patient was loaded with 
phenobarbital, which may continue if the accepting psychiatric 
facility is okay with administering, however there is no 
contraindication to discontinuing.
-Phenobarb protocol while inpatient, stopped at discharge
-Continued MVI, thiamine, folate
-Hydroxyzine PRN for additional agitation
-seen by psychiatry and social work - appreciated.

# Suicidal ideation: patient repeatedly stating "I have suicidal 
thoughts" and "I'm depressed," though is unable to fully 
elaborate. Psychiatry saw the patient and had the following 
recommendations: -Patient meets ___ criteria for 
involuntary admission, may not leave AMA, should continue 1:1 
observation.
-Would hold on any psychiatric medications given acute alcohol 
withdrawal.
-If chemical restraint necessary, please call psychiatry for 
specific recs. Please be aware that patient has cited "jaw 
locking" with Haldol administration in the past, thus would 
consider alternative antipsychotic.
- seen by psychiatry - recommended inpatient psychiatric 
placement, and transferred to deac 4.

# FEVER: Patient febrile to 101 in the ED. No localizing signs 
of symptoms of infection. Suspect that this was likely related 
to acute ingestion, however given her murmur which has not been 
documented previously,  obtained TTE which showed no evidence of 
vegetation or endocarditis.

# Psychosis: suspect this is part of underlying psych disorder 
and not necessarily alcoholic hallucinosis.  Will defer to 
psychiatry.
-Appreciate Psychiatry recs

CHRONIC STABLE ISSUES:
========================
# HIV: not on HAART, started Bactrim for PCP prophylaxis given 
last CD4 count was <200, will send repeat CD4 count on ___ if 
still inpatient.  Patient was previously not taking her HAART 
medications, will defer to outpatient.

# HCV: not on active treatment
- Monitor LFTs, as above

Transitioanl issues:
Should see PCP re HIV and HCV once psychiatrically stabilized.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amitriptyline 25 mg PO QHS 
2. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
3. Sulfameth/Trimethoprim DS 1 TAB PO DAILY  (not taking)
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY (not taking)
5. Darunavir 600 mg PO BID  (not taking)
6. RiTONAvir 100 mg PO DAILY  (not taking)

 
Discharge Medications:
1. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Thiamine 100 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Polysubstance abuse

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation of numerous falls, 
alcohol and substance abuse.  While you were here you were 
briefly in the intensive care unit where you were started on 
phenobarbital to help you withdrawal from alcohol and prevent 
delirium tremens.  You also disclosed that you were not taking 
any of your HIV medications.  You were started on Bactrim as 
prophylaxis for opportunistic infections, and should follow up 
with your outpatient providers regarding restarting your HIV 
medications and for evaluation of your hepatitis C.  You were 
deemed medically stable for discharge to a psychiatric facility.
 
Followup Instructions:
___